Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ y/o man w a history of bacterial 
infections,
occasionally polymicrobial bacteremia, presumably iso sclerosing
cholangitis, who presented to the ___ ER one day of fever,
chills, and joint pain. He says that he spiked a fever to 101.3
on the night of ___, and that these joint pains and rigors are
consistent with prior bacteremic episodes. He took Bactrim and
Aleve before arriving to the ___ ED.

Since being diagnosed with secondary sclerosis cholangitis ___
years ago, he has been hospitalized several times for fever and
chills. These episodes have been managed at ___. He was found to
be bacteremic with MDR E. coli during hospitalizations from
___ and ___, treated with cefepime and
ertapenem, respectively. A recent ___ hospitalization
identified polymicrobial bacteremia with ESBL E. coli, strep,
staph, and abiotrophia. He was treated with cefepime/augmentin.
He had a subsequent E. coli bacteremia identified at an OSH
___ in ___) that was sensitive to Zosyn and
augmentin, but newly resistant to cefepime. On the most recent
episode of fever, chills, and joint pain on ___, his blood
cultures were negative, but he was given linezolid and 
mereopenem
for potential sepsis.

His bacteremic hospitalizations have not been consistently
associated with LFTs. His most recent colonoscopy was ___,
finding mild intrahepatic cholangiopathy predominantly affecting
the left intrahepatic ducts. With baseline ALT 21, AST 28, TBili
0.4, though elevated AlkPhos 125.

Upon arrival to the ED last night, he denied headache, chest
pain, cough, shortness of breath, nausea, vomiting, diarrhea,
constipation, urinary frequency, or burning w/urination. He
endorses minimal lightheadedness. 

REVIEW OF SYSTEMS: Positive per HPI, remaining 10 point ROS
reviewed and negative.

In the ED initial vitals:
VS: (___) T 98.3, HR 67, BP 122/74, RR 18, 93% on RA
- ED exam:
GENERAL: appears stated age, NAD
HEENT: At/NC, MMM
CARDIAC: normal S1, S2, RRR no m/r/g
PULM: clear to auscultation 
ABDOMEN: soft, non-tender, non-distended
EXTREMITIES: warm, well perfused

- Labs notable for:
WBC 11.2, Hgb 15.7, Hct 45.9, Plt 128
Na 141, K 5.2, Cl 105, HCO3 21, BUN 17, Cr 1.1, Gluc 126, AGap 
15
ALT 39, AST 55, AP 137, Tbili 1.6 (baseline 0.5 on ___,
Dbili 0.2, Alb 4.2, Lip 25

UA: Neg, other than Prot ___
FluAPCR, FluBPCR: Neg
BCx, UCx: PND

- Imaging notable for:
MRCP (___): No evidence of choledocholithiasis or acute
cholecystitis. Some air in gallbladder. The bile ducts in the
left hepatic lobe appear dilated compared to those in the right
lobe, and some of the ducts demonstrate irregular contours. 
1.3cm
T2 hyper intense, enhancing lesion in the left hepatic lobe.
CXR (___): No acute pulmonary findings

- Consults: GI

- Patient was given:
___, 2347 Piperacillin-Tazobactam 4.5 g IV Q8H
2037 ALPRAZolam 1 mg PO/NG - ___ of dose given
2236 Rosuvastatin Calcium 10 mg PO QPM
2236 Tamsulosin 0.4 mg PO QHS
___ Piperacillin-Tazobactam 4.5 g IV Q8H
 
Past Medical History:
- Secondary sclerosis cholangitis
- Recurrent MDR E.coli bacteremia iso cholangitis
- CAD s/p stent x2
- Choledocholithiasis
- GERD
- Prostate cancer
- Appendectomy
- Inguinal hernia repair
 
Social History:
___
Family History:
- 2 sons: "bowel issues," believe IBD
- Father: diabetic, died at ___ from MI
- Mother: throat cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
VS: T 98.1, BP 105/65, HR 54, RR 18, O2 sat 98 RA 
GENERAL: In NAD.
HEENT: PERRL, anicteric sclera, moist mucous membranes.
CV: RRR, no murmurs/gallops/rubs, PMI non-displaced
LUNGS: CTAB posteriorly and anteriorly, no
wheezing/crackles/rhonchi.
ABDOMEN: Soft, obese, nontender in all quadrants, no
rebound/guarding, negative ___ sign.
EXTREMITIES: No ___ edema, 2+ pulses bilaterally (radial, tibial)
NEURO: A&Ox3, motor and sensation grossly intact.
SKIN: No rashes. 

DISCHARGE PHYSICAL EXAM:
24 HR Data (last updated ___ @ 2348)
    Temp: 98.1 (Tm 98.1), BP: 114/69 (114-137/69-79), HR: 52
(48-80), RR: 18 (___), O2 sat: 96% (95-97), O2 delivery: Ra,
Wt: 232.2 lb/105.33 kg   
GENERAL: Older man in NAD, pleasant, conversant
HEENT: PERRL, anicteric sclera, moist mucous membranes.
CV: RRR, no murmurs/gallops/rubs, PMI non-displaced
LUNGS: CTAB, no wheezing/crackles/rhonchi.
ABDOMEN: Soft, obese, nontender in all quadrants, no
rebound/guarding, negative ___ sign.
EXTREMITIES: No ___ edema, 2+ pulses bilaterally (radial, tibial)
NEURO: A&Ox3, motor and sensation grossly intact.
SKIN: No rashes. 
 
Pertinent Results:
LABS:

___ 12:50PM BLOOD WBC-11.2* RBC-5.15 Hgb-15.7 Hct-45.9 
MCV-89 MCH-30.5 MCHC-34.2 RDW-13.8 RDWSD-45.0 Plt ___
___ 12:50PM BLOOD Neuts-88.9* Lymphs-2.8* Monos-7.5 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-9.99* AbsLymp-0.32* 
AbsMono-0.84* AbsEos-0.01* AbsBaso-0.02
___ 11:00AM BLOOD ___ PTT-25.3 ___
___ 12:50PM BLOOD Glucose-126* UreaN-17 Creat-1.1 Na-141 
K-5.2 Cl-105 HCO3-21* AnGap-15
___ 12:50PM BLOOD ALT-39 AST-55* AlkPhos-137* TotBili-1.6* 
DirBili-0.2 IndBili-1.4
___ 11:00AM BLOOD Albumin-3.8 Calcium-9.2 Phos-2.4* Mg-2.3

=======================

IMAGING/STUDIES:

MRCP ___:

EXAMINATION:  MRCP
 
INDICATION:  ___ year old man with recurrent cholangitis with LFT
abnormalities, evaluate for stricture, stones cause for 
recurrent cholangitis
 
TECHNIQUE:  T1- and T2-weighted multiplanar images of the 
abdomen were
acquired in a 1.5 T magnet.
Intravenous contrast: 10 mL Gadavist.
Oral contrast:  1 cc of Gadavist mixed with 50 cc of water was 
administered
for oral contrast.
 
COMPARISON:  Outside hospital CT of the abdomen and pelvis dated 
___.
 
FINDINGS: 
 
Lower Thorax: There is no pleural or pericardial effusion.
 
Liver: There is marked atrophy of the anterior segments of the 
right lobe with
evidence of peripheral atrophy throughout the liver.  The liver 
contour is
smooth.  There are patchy areas of loss of signal intensity on 
the out of
phase imaging compared with the in phase imaging consistent 
patchy steatosis
with fat fractions up to 6.7% (8:3, 8:4).  A lobulated T2 
hyperintense, T1
hypointense arterially hyperenhancing lesion in segment VIII 
measuring up to
1.3 x 1.1 cm demonstrates persistent enhancement on delayed 
phases could
represent a capillary hemangioma, unchanged from prior studies.  
There is no
suspicious liver lesion.
 
Biliary: There is mild irregular intrahepatic biliary ductal 
dilatation, more
prominent on the left.  There is no extrahepatic biliary ductal 
dilatation. 
Geographic areas of hepatic heterogeneous arterial 
hyperenhancement without
correlate on delayed phase imaging are suggestive of 
cholangitis, particularly
in the setting of mild peribiliary restricted diffusivity and 
hyperenhancement
of the common bile duct wall (___:93).  The gallbladder is 
unremarkable, with
a small amount of intraluminal air suggesting prior 
sphincterotomy or recent
instrumentation.  There is no dominant stricture.  There is a 
low medial
insertion of the cystic duct.
 
Pancreas: There is moderate fatty atrophy of the pancreatic head 
and uncinate
process.  The pancreas is otherwise unremarkable without focal 
lesion or
ductal dilatation.
 
Spleen: Normal in size without focal lesion.
 
Adrenal Glands: Unremarkable
 
Kidneys: Simple cysts are seen bilaterally.  There is no 
suspicious lesion or
hydronephrosis.
 
Gastrointestinal Tract:  Unremarkable.
 
Lymph Nodes: No lymphadenopathy.  Mildly prominent porta hepatis 
and
diaphragmatic lymph nodes are likely reactive.
 
Vasculature: Unremarkable.
 
Osseous and Soft Tissue Structures: No suspicious osseous 
lesion.
 
IMPRESSION:
 
1. Findings suggestive of acute cholangitis.
2. Mild left greater than right irregular intrahepatic biliary 
ductal
dilatation with evidence of peripheral atrophy.  Findings could 
be related to
multiple prior episodes of severe cholangitis, however 
underlying primary
sclerosing cholangitis should be considered.  No dominant 
stricture or
choledocholithiasis.
 
Brief Hospital Course:
___ w/ PMH recurrent bacteremia ___ sclerosing cholangitis, p/w 
fever and chills found to have leukocytosis and bilirubin above 
baseline c/w cholangitis. MRCP showed acute cholangitis and mild 
left greater than right irregular intrahepatic biliary ductal 
dilatation with evidence of peripheral atrophy, but no dominant 
strictures or stone. He was treated with IV Zosyn and his WBC 
and LFTs downtrended. After ___ of IV abx, he was switched to PO 
Bactrim. ID was consulted and recommended Bactrim for 14d and 
f/u as outpatient to decide on long-
prophylactic therapy. He remained afebrile and HD stable 
throughout the hospitalization and was discharged with plan for 
14d of abx and follow up with infectious disease.  

===========================
TRANSITIONAL ISSUES:
[ ] Bactrim for ___
[ ] F/u Labs: Chem 10 q1wk to monitor Cr and K on Bactrim
[ ] Recurrent cholangitis: Consider long-term prophylactic 
antibiotics vs surgery evaluation for possible resection of Lt 
lobe. 
# CODE: FULL (presumed)
# CONTACT: HCP ___ (wife) - ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tamsulosin 0.4 mg PO QHS 
2. Ursodiol 300 mg PO TID 
3. Rosuvastatin Calcium 10 mg PO QPM 
4. Aspirin 81 mg PO DAILY 
5. Ranitidine 150 mg PO ONCE 

 
Discharge Medications:
1.  Sulfameth/Trimethoprim DS 2 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 2 tablet(s) by 
mouth twice a day Disp #*23 Tablet Refills:*0 
2.  Ranitidine 150 mg PO QHS  
3.  Aspirin 81 mg PO DAILY  
4.  Rosuvastatin Calcium 10 mg PO QPM  
5.  Tamsulosin 0.4 mg PO QHS  
6.  Ursodiol 300 mg PO TID  
7.Outpatient Lab Work
ICD-10: K83.0 Cholangitis
Please draw CBC, Chemistry, AST, ALT, Tbili, Alk Phos, LDH, INR 
on ___ and fax to Dr. ___ clinic) ___ ___s 
Dr. ___ ___.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Acute cholangitis
# Recurrent cholangitis
# Secondary sclerosing cholangitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because you had fevers and 
were not feeling well at home.

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
- You had an MRI that didn't show any obstruction in your 
biliary tract.
- You were on IV antibiotics with no growth on cultures. 
Infectious Disease recommended switching to an oral antibiotic 
to continue taking at home. 
- You improved and were ready to leave the hospital.

WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?
- Take all of your medications as prescribed (listed below)
- Keep your follow up appointments with your doctors

___ was a pleasure participating in your care. We wish you the 
best!

- Your ___ Care Team

 
Followup Instructions:
___